US06924278B2
A solution of (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-4-[[1-(tert-butoxycarbonylmethyl)-1H-pyrazol-4-yl]methyl]-2-(3,4-dimethylbenzyl)piperazine (425 mg) in dichloromethane (2.5 ml) was treated with trifluoroacetic acid (2.5 ml) at room temperature for 1 hour. The mixture was adjusted to pH 7.4 with aqueous sodium bicarbonate solution and evaporated under reduced pressure. The residue was washed with a mixture of dichloromethane and methanol (9:1), and the solution was evaporated under reduced pressure and purified by column chromatography on a silica gel using a mixture of methanol and chloroform (1:9) as eluent and subsequent crystallization from ethyl acetate, isopropyl ether, and hexane to give (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-4-[[1-(carboxymethyl)-1H-pyrazol-4-yl]methyl]-2-(3,4-dimethylbenzyl)piperazine (395 mg) as a white powder.

reactant | (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-4-[[1-(tert-butoxycarbonylmethyl)-1H-pyrazol-4-yl]methyl]-2-(3,4-dimethylbenzyl)piperazine | 425 mg | FC(C=1C=C(C(=O)N2[C@@H](CN(CC2)CC=2C=NN(C2)CC(=O)OC(C)(C)C)CC2=CC(=C(C=C2)C)C)C=C(C1)C(F)(F)F)(F)F | C32H36F6N4O3
reactant | trifluoroacetic acid | 2.5 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 2.5 ml | ClCCl | CH2Cl2
product | (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-4-[[1-(carboxymethyl)-1H-pyrazol-4-yl]methyl]-2-(3,4-dimethylbenzyl)piperazine | 395 mg | FC(C=1C=C(C(=O)N2[C@@H](CN(CC2)CC=2C=NN(C2)CC(=O)O)CC2=CC(=C(C=C2)C)C)C=C(C1)C(F)(F)F)(F)F | C28H28F6N4O3
